US09079866B2
5-(2-Fluoro-4-{2-[(1-methylethyl)sulfanyl]pyridin-3-yl}phenyl)pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 3-bromo-2-(isopropylthio)pyridine. MS (ESI): mass calcd. for C18H17FN4S, 340.12; m/z found, 341.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.62-8.57 (m, 1H), 8.49-8.43 (m, 1H), 8.12 (d, J=1.5, 1H), 8.04-7.93 (m, 1H), 7.45-7.39 (m, 1H), 7.34-7.30 (m, 1H), 7.29-7.22 (m, 1H), 7.11-7.03 (m, 1H), 4.69 (s, 2H), 4.17-4.00 (m, 1H), 1.37 (d, J=6.8, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 3-bromo-2-(isopropylthio)pyridine | BrC=1C(=NC=CC1)SC(C)C | C8H10BrNS
product | 5-(2-Fluoro-4-{2-[(1-methylethyl)sulfanyl]pyridin-3-yl}phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)C=1C(=NC=CC1)SC(C)C)C=1N=CC(=NC1)N | C18H17FN4S
